US05789460
100 mL toluene, 10 g 2-nitrobenzyl alcohol and 11.4 mL octyl isocyanate were introduced into a 200-mL roundbottom flask and heated under reflux for 2 hours under a nitrogen blanket. After cooling, the reaction solution was washed several times with water, and the toluene solution thereby afforded was then dried over sodium sulfate. The sodium sulfate was thereafter filtered off and the solvent was eliminated from the filtrate using a rotary evaporator. The resulting solid was recrystallized twice from hexane to yield 12.5 g ortho-nitrobenzyl n-octylcarbamate as light-yellow, needle-like crystals. mp=70°-71° C. Infrared absorption=3331 cm-1, 1691 cm-1.

reactant | 2-nitrobenzyl alcohol | 10 g | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | octyl isocyanate | 11.4 mL | C(CCCCCCC)N=C=O | C9H17NO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | ortho-nitrobenzyl n-octylcarbamate | 12.5 g | C(CCCCCCC)NC(OCC1=C(C=CC=C1)[N+](=O)[O-])=O | C16H24N2O4
